US08431603B2
N-(Cyclopropylmethyl)-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine hydrochloride
To a mixture of N-(cyclopropylmethyl)-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine (8.38 mg) and ethyl acetate (0.5 mL) was added hydrochloric acid in diethyl ether (1M, 17.2 μL). The mixture was stirred at room temperature for 1.5 hours and the solvent was removed by blowing nitrogen stream and dried to obtain the title compound (9.22 mg).

reactant | N-(cyclopropylmethyl)-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine | 8.38 mg | C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)COC)OC)OC)C2CCOCC2 | C25H33N3O5S
reactant | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 1M, 17.2 μL | C(C)OCC | C4H10O
product | N-(Cyclopropylmethyl)-3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methoxy-N-(tetrahydro-2H-pyran-4-yl)pyrazolo[5,1-b][1,3]thiazole-7-amine hydrochloride | 9.22 mg | Cl.C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)COC)OC)OC)C2CCOCC2 | InChI=1S/C25H33N3O5S.ClH/c1-29-14-17-11-20(30-2)22(21(12-17)31-3)19-15-34-25-23(24(32-4)26-28(19)25)27(13-16-5-6-16)18-7-9-33-10-8-18;/h11-12,15-16,18H,5-10,13-14H2,1-4H3;1H
